US06277872B1
b) Preparation of 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoic acid
4.4 g of methyl 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoate are heated in the microwave for 15 minutes at 300 W with 30 ml of 5N hydrochloric acid. The mixture is extracted with ethyl acetate, the aqueous phase is concentrated by evaporation and recrystallised from acetonitrile/ether. Yield: 4.2 g (86% of theory).

reactant | methyl 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoate | 4.4 g | CN(C)CCOC1=C(C(=O)OC)C=CC=C1 | C12H17NO3
solvent | hydrochloric acid | 5N, 30 ml | Cl | ClH
product | 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoic acid | CN(C)CCOC1=C(C(=O)O)C=CC=C1 | C11H15NO3
